US05686628
Using a similar oxidation procedure to that described in Example 2, but using (S)-1-[(S)-2-(methoxycarbonylamino)-3-methylbutyryl]-N-[2-methyl-1-(2,2,2-trifluoro-1-hydroxyethyl)propyl]-pyrrolidine-2-carboxamide and adding the potassium permanganate solution at 5°-10° C. and then stirring at 10° C. for one hour prior to treatment with methanol, there was obtained (after work-up by extration into tert-butyl methyl ether, followed by washing with brine and concentration in vacuo) (S)-1-[(S)-2-(methoxycarbonylamino)-3-methylbutyryl]-N-[2-methyl-1-(2,2,2-trifluoroacetyl)propyl]-pyrrolidine-2-carboxamide as a gum (in 75% yield); SSS:SSR ratio of 53:47; hydrate:ketone 1:1; 1H NMR similar to that of the product of Example 1. [Using a similar procedure, but adding the potassium permanganate solution at ambient temperature instead of 5°-10° C., the product was obtained in a ratio of SSS:SSR of 47:53.]

reactant | (S)-1-[(S)-2-(methoxycarbonylamino)-3-methylbutyryl]-N-[2-methyl-1-(2,2,2-trifluoro-1-hydroxyethyl)propyl]-pyrrolidine-2-carboxamide | COC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)NC(C(C)C)C(C(F)(F)F)O)C(C)C | C18H30F3N3O5
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | methanol | CO | CH4O
product | (S)-1-[(S)-2-(methoxycarbonylamino)-3-methylbutyryl]-N-[2-methyl-1-(2,2,2-trifluoroacetyl)propyl]-pyrrolidine-2-carboxamide | 75% yield | COC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)NC(C(C)C)C(C(F)(F)F)=O)C(C)C | C18H28F3N3O5
